US07943607B2
7-Fluoro-2,2-dimethyl-3-[(methyloxy)methyl]-2,3-dihydro-4H-1,3-benzoxazin-4-one
Sodium hydride (60% dispersion in oil) (45 mg, 1.13 mmol) was added to a solution of 7-fluoro-2,2-dimethyl-2,3-dihydro-4H-1,3-benzoxazin-4-one (0.2 g, 1.02 mmol) in THF (4 mL) at 0° C., under argon then allowed to warm to RT and chloromethylmethyl ether (0.086 mL, 1.13 mmol) added. The reaction was stirred at RT for 4 hours then poured into ice/water (50 mL) and extracted into ethyl acetate (50 mL). The organics were washed with brine (50 mL), dried (MgSO4), and the solvent removed in vacuo. The crude oil was chromatographed on silica, eluting with 10-50% ethyl acetate in isohexane, to give the desired compound as a white solid (0.13 g). 1H NMR δ (CDCl3): 1.66 (s, 6H), 3.31 (s, 3H), 5.00 (s, 2H), 6.53 (d, 1H), 6.67-6.72 (m, 1H), 7.89 (dd, 1H).

reactant | Sodium hydride | 1.13 mmol, 45 mg | [H-].[Na+]
reactant | 7-fluoro-2,2-dimethyl-2,3-dihydro-4H-1,3-benzoxazin-4-one | 1.02 mmol, 0.2 g | FC1=CC2=C(C(NC(O2)(C)C)=O)C=C1 | C10H10FNO2
reactant | chloromethylmethyl ether | 1.13 mmol, 0.086 mL | ClCOC | C2H5ClO
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 7-Fluoro-2,2-dimethyl-3-[(methyloxy)methyl]-2,3-dihydro-4H-1,3-benzoxazin-4-one | 0.13 g | FC1=CC2=C(C(N(C(O2)(C)C)COC)=O)C=C1 | C12H14FNO3
